US06891066B2
The product of Example 25, Step B, 3,4-difluoro-2-[[2-fluoro-4-(3-methoxy-1-propynyl)phenyl]amino]benzoic acid, was hydrogenated in absolute ethanol in the presence of 5% Pd/C as above in Example 1, Step D. The resulting crude solid was purified by filtration through a plug of silica gel (50% EtOAc/hexanes as eluant) to give 3,4-difluoro-2-[[2-fluoro-4-(3-methoxypropyl)phenyl]amino]benzoic acid as a white solid (65%); m.p. (Et2O/hexanes) 125-127° C. 1H NMR [400 MHz, (CD3)2SO] δ 13.35 (br s, 1 H), 9.27 (br s, 1 H), 7.82 (ddd, J=8.3, 6.1, 1.9 Hz, 1 H), 7.08 (dd, J=12.4, 1.7 Hz, 1 H), 7.05-6.96 (m, 2 H), 6.93 (dd, J=8.2, 1.8 Hz, 1 H), 3.33 (t, J=6.4 Hz, 2 H), 3.23 (s, 3 H), 2.59 (t, J=7.7 Hz, 2 H), 1.83-1.73 (m, 2 H). Anal. Calcd for C17H16F3NO3: C, 60.2; H, 4.8; N, 4.1. Found: C, 60.2; H, 4.7; N, 4.1.

reactant | 3,4-difluoro-2-[[2-fluoro-4-(3-methoxy-1-propynyl)phenyl]amino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C#CCOC)F | C17H12F3NO3
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3,4-difluoro-2-[[2-fluoro-4-(3-methoxypropyl)phenyl]amino]benzoic acid | 65% | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)CCCOC)F | C17H16F3NO3
